2182-03-11 07:48:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - Patient on room air, sating in mid 90s on RA with no overnight
   events.
   - Plan for DX thoracentesis on [**2182-3-11**]
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2182-3-10**] 01:07 AM
   Piperacillin/Tazobactam (Zosyn) - [**2182-3-11**] 12:52 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2182-3-10**] 09:59 PM
   Other medications:
   Changes to medical and family history:
   No Changes.
   Review of systems is unchanged from admission except as noted below
   Review of systems: Unchanged.
   Flowsheet Data as of  [**2182-3-11**] 07:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**83**] AM
   Tmax: 36.5
C (97.7
   Tcurrent: 36.4
C (97.5
   HR: 82 (72 - 86) bpm
   BP: 139/76(91) {85/40(25) - 143/76(91)} mmHg
   RR: 23 (11 - 34) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
    CVP: 12 (12 - 12)mmHg
   Total In:
                                                                  5,715 mL
                                                                    127 mL
   PO:
   TF:
   IVF:
                                                                  2,635 mL
                                                                    127 mL
   Blood products:
   Total out:
                                                                  1,155 mL
                                                                    335 mL
   Urine:
                                                                  1,155 mL
                                                                    335 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,560 mL
                                                                   -208 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 95%
   ABG: ///24/
   Physical Examination
    General: Alert, oriented, no acute distress; reports that she feels
   "lazy."
   HEENT: Sclera anicteric, MMM, oropharynx clear
   Neck: supple, JVP not elevated, no LAD
   Lungs: Right rhonchi, left minimal breath sounds, no wheezes
   CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen:  soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding, no organomegaly
   GU: no foley
   Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis or edema
   Neuro: A+Ox2 (to [**Hospital1 19**], [**Holiday **], name, not oriented to year). Speech
   slow.
   CN II-XII intact
   Strength 4/5 in RUE, less in LUE
   Gait assessment deferred
   Labs / Radiology
   381 K/uL
   11.7 g/dL
   72 mg/dL
   1.3 mg/dL
   24 mEq/L
   3.9 mEq/L
   37 mg/dL
   108 mEq/L
   144 mEq/L
   37.4 %
   13.2 K/uL
        [image002.jpg]
                             [**2182-3-10**]  05:55 AM
                             [**2182-3-11**]  03:37 AM
   WBC
   16.7
   13.2
   Hct
   35.9
   37.4
   Plt
   399
   381
   Cr
   1.4
   1.3
   Glucose
   118
   72
   Other labs: PT / PTT / INR:17.1/29.7/1.5, ALT / AST:6/31, Alk Phos / T
   Bili:99/0.8, Lactic Acid:1.3 mmol/L, LDH:339 IU/L, Ca++:8.5 mg/dL,
   Mg++:2.1 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
   88 year old woman with sepsis, likely secondary to health care
   associated/aspiration pneumonia with large left sided pleural effusion.
   .
   # Sepsis: Pt with hypotension, tachycardia suggestive of septic shock.
   Pt's mentation is at baseline. Urine output has been approx 30 cc/hr in
   ED. Labs suggestive of lactic acidosis with an anion gap of 21. Sepsis
   likely due to pneumonia given large pleural effusion, also consider
   UTI/urosepsis. Pt now s/p 3L IVF in ED.
   - Continue norepinephrine with goal MAP>60
   - Bolus with IVF prn to try to wean norepinephrine
   - Broadly culture (blood, urine, sputum)
   - Place a-line to monitor BP's
   - CVP>12
   - Check mixed venous sat, if low consider transfusion if hct<30
   .
   # Respiratory distress: Initially pt was on NRB, was weaned down to 4L
   NC, and is now tolerating room air. [**Month (only) 51**] be secondary to pneumonia,
   pleural effusion.
   - Check ABG
   - ATC nebs
   - Treat pneumonia with vanc, zosyn
   .
   # Anion-gap acidosis: Pt has an anion gap of 21, with a delta-delta of
   [**10-11**] which suggests a metabolic alkalosis as well. AG acidosis likely
   due to lactic acidosis and uremia.
   - Continue IVF for elevated lactate
   - ABG as above
   - A line for ABG monitoring
   .
   # Massive left pleural effusion: Likely infectious versus malignant
   pleural effusion. Pt has recently been on a course of levaquin and
   flagyl since [**3-6**] for aspiration pna, which was broadened to vanc and
   zosyn on admission. Given CXR from [**2182-3-4**] that showed a left
   consolidation with pleural effusion, it seems possible that effusion is
   secondary to indection. Pt had mediastinal LN involvement on PET scan,
   so pleural effusion could be related to known metastatic breast cancer.
   - Continue vanc and zosyn
   - US-guided thoracentesis today
   - Consider high-res CT
   .
   # Acute renal failure: Likely ATN due to hypotension, but also may be a
   component of prerenal renal failure.
   - Check urine lytes
   - Hold ACE and diuretic
   - Renally dose meds.
   .
   # Hyperphosphatemia: Perhaps related to acute renal failure.
   - Phosphate today is normal.
   .
   # Htn: Hold home lisinopril, amlodipine and hctz while pt on pressors.
   .
   # H/o CVA: Residual L deficits.
   - Continue statin.
   # FEN: IVF, replete electrolytes, S+S
   # Prophylaxis: Subcutaneous heparin
   # Access: peripherals, CVL
   # Communication: Patient
   # Code:  Full (discussed with patient); HCP dtr [**Name (NI) 8**]
   # Disposition: ICU pending clinical improvement
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2182-3-10**] 12:56 AM
   18 Gauge - [**2182-3-10**] 01:33 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2182-03-12 07:26:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 EKG - At [**2182-3-11**] 08:30 AM
 THORACENTESIS - At [**2182-3-11**] 05:00 PM
   1400ml fluid taken off
 CALLED OUT
   Patient s/p thoracentesis with 1400ml of serosanguinous fluid removed.
   Tolerated procedure well with improvement in respiratory status.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2182-3-11**] 08:09 AM
   Vancomycin - [**2182-3-11**] 08:34 PM
   Ampicillin/Sulbactam (Unasyn) - [**2182-3-12**] 12:44 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2182-3-11**] 10:22 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2182-3-12**] 07:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**83**] AM
   Tmax: 36.5
C (97.7
   Tcurrent: 36.5
C (97.7
   HR: 77 (74 - 93) bpm
   BP: 135/72(87) {107/51(67) - 144/103(107)} mmHg
   RR: 11 (11 - 29) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
    CVP: 15 (12 - 15)mmHg
   Total In:
                                                                    670 mL
                                                                    278 mL
   PO:
   TF:
   IVF:
                                                                    640 mL
                                                                    278 mL
   Blood products:
   Total out:
                                                                  2,370 mL
                                                                    310 mL
   Urine:
                                                                    970 mL
                                                                    310 mL
   NG:
   Stool:
   Drains:
                                                                  1,400 mL
   Balance:
                                                                 -1,700 mL
                                                                    -32 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95% on 2L NC
   ABG: ///26/
   Physical Examination
   General: Alert, oriented, no acute distress
   HEENT: Sclera anicteric, MMM, oropharynx clear
   Neck: supple, JVP not elevated, no LAD
   Lungs: Right rhonchi, left minimal breath sounds, no wheezes
   CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen:  soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding, no organomegaly
   GU: no foley
   Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis or edema
   Neuro: A+Ox2 (to [**Hospital1 19**], [**Holiday **], name, not oriented to year)
   Labs / Radiology
   387 K/uL
   11.6 g/dL
   83 mg/dL
   1.0 mg/dL
   26 mEq/L
   3.6 mEq/L
   32 mg/dL
   110 mEq/L
   146 mEq/L
   36.6 %
   13.1 K/uL
        [image002.jpg]
                             [**2182-3-10**]  05:55 AM
                             [**2182-3-11**]  03:37 AM
                             [**2182-3-12**]  04:19 AM
   WBC
   16.7
   13.2
   13.1
   Hct
   35.9
   37.4
   36.6
   Plt
   399
   381
   387
   Cr
   1.4
   1.3
   1.0
   Glucose
   118
   72
   83
   Other labs: PT / PTT / INR:15.6/28.2/1.4,
    ALT / AST:6/31, Alk Phos / T Bili:99/0.8, Lactic Acid:1.3 mmol/L,
   LDH:339 IU/L,
   Ca++:8.3 mg/dL, Mg++:2.1 mg/dL, PO4:2.5 mg/dL
   Blood CX ([**3-9**]): NGTD
   Pleural Fluid:
   - pH 7.45
   - LDH: 398
   - protein 3.8
   - glucose 73
   - WBC: 1333,  RBC: [**Numeric Identifier 14446**],  poly: 42, lymph: 33, macro: 20
   Fluid Protein/Serum protein = 0.64 (c/w exudate)
   Fluid LDH/Serum LDH = 1.17 (c/w exudate)
   Assessment and Plan
   88 year old woman with sepsis, likely secondary to health care
   associated/aspiration pneumonia with large left sided pleural effusion
   with exudative
   .
   # Sepsis: Pt with hypotension, tachycardia suggestive of septic shock.
   Pt's mentation is at baseline. Urine output has been approx 30 cc/hr in
   ED. Labs suggestive of lactic acidosis with an anion gap of 21. Sepsis
   likely due to pneumonia given large pleural effusion, also consider
   UTI/urosepsis. Pt now s/p 3L IVF in ED.
   - Continue norepinephrine with goal MAP>60
   - Bolus with IVF prn to try to wean norepinephrine
   - Broadly culture (blood, urine, sputum)
   - Place a-line to monitor BP's
   - CVP>12
   - Check mixed venous sat, if low consider transfusion if hct<30
   .
   # Respiratory distress: Initially pt was on NRB, was weaned down to 4L
   NC, and is now tolerating room air. [**Month (only) 51**] be secondary to pneumonia,
   pleural effusion.
   - Check ABG
   - ATC nebs
   - Treat pneumonia with Unasyn x 10 day course for aspiration PNA (could
   transition to Augmentin)
   - Continue O2 PRN
   .
   # Anion-gap acidosis: Pt has an anion gap of 21, with a delta-delta of
   [**10-11**] which suggests a metabolic alkalosis as well. AG acidosis likely
   due to lactic acidosis and uremia.
   - Continue IVF for elevated lactate
   - ABG as above
   - A line for ABG monitoring
   .
   # Massive left pleural effusion: Likely infectious versus malignant
   pleural effusion. Pt has recently been on a course of levaquin and
   flagyl since [**3-6**] for aspiration pna, which was broadened to vanc and
   zosyn on admission. Given CXR from [**2182-3-4**] that showed a left
   consolidation with pleural effusion, it seems possible that effusion is
   secondary to indection. Pt had mediastinal LN involvement on PET scan,
   so pleural effusion could be related to known metastatic breast cancer.
   - Continue Unasyn as above
   - Hold off on draining fluid re-accumulation at this time as pt
   minimally symptomatic; may require repeat tap if sx accelerate (with
   Pleurex catheter placement)
   - Consider high-res CT
   - F/U cytology from initial thoracentesis
   .
   # Acute renal failure: Likely ATN due to hypotension, but also may be a
   component of prerenal renal failure.
   - Check urine lytes
   - Hold ACE and diuretic
   - Renally dose meds.
   .
   # Hyperphosphatemia: Perhaps related to acute renal failure.
   - Phosphate today is normal.
   .
   # Htn: Hold home lisinopril, amlodipine and hctz while pt on pressors.
   .
   # H/o CVA: Residual L deficits.
   - Continue statin.
   # FEN: IVF, replete electrolytes, S+S evaluation today
   # Prophylaxis: Subcutaneous heparin
   # Access: peripherals, CVL
   # Communication: Patient
   # Code:  Full (discussed with patient); HCP dtr [**Name (NI) 8**]
   # Disposition: ICU pending clinical improvement
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2182-3-10**] 12:56 AM
   18 Gauge - [**2182-3-10**] 01:33 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: